US05741926
3-Methoxy-2-((bromoacetyl)amino)benzoic Acid
A solution of 3-methoxy-2-aminobenzoic acid (5.0 g, 30 mmol) in a mixture of anhydrous DMF (30 mL) and anhydrous dioxane (30 mL) in a 250 mL-3-necked round-bottomed flask equipped with a constant addition funnel (60 mL) was cooled with an ice-bath to -5° C. Bromoacetyl bromide (6.66 g, 2.90 mL, 30 mmol) was added dropwise, keeping the internal temperature between -5° to 0° C. over a 1/2 h period. After the addition of bromoacetyl bromide was completed, the solution was warmed to room temperature and then stirred overnight. To the solution was slowly added 150 mL of ice-water, causing a pale white solid to precipitate. The precipitate was filtered, washed with water, and then dried in a vacuum oven overnight to afford 6.26 g (72%) of the title compound as a pale-white solid, mp 178°--180° C. (decomp): 1H NMR (DMSO-d6) δ12.80 (bs, 1H), 9.80 (s, 1H), 7.30-7.25 (m, 3H), 4.05 (s, 2H), 3.81 (s, 3H); 13C NMR (DMSO-d6) δ167.37, 164.54, 153.67, 129.76, 126.56, 124.39, 121.18, 114.66, 56.03, 29.63; MS (EI, m/z) 287 (M+).

reactant | 3-methoxy-2-aminobenzoic acid | 30 mmol, 5.0 g | COC=1C(=C(C(=O)O)C=CC1)N | C8H9NO3
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
reactant | Bromoacetyl bromide | 30 mmol, 2.90 mL, 6.66 g | BrCC(=O)Br | C2H2Br2O
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | 3-Methoxy-2-((bromoacetyl)amino)benzoic Acid | 6.26 g, 72% | COC=1C(=C(C(=O)O)C=CC1)NC(CBr)=O | C10H10BrNO4
